US08334301B2
ethyl 1-phenyl-5-(phenylamino)-1H-pyrazole-3-carboxylate
Ethyl 5-amino-1-phenyl-1H-pyrazole-3-carboxylate (443 mg) synthesized according to the method described in WO2004/98589, iodobenzene (469 mg), cesium carbonate (1.2 g), tris(dibenzylideneacetone)dipalladium (0) (87 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (111 mg) were suspended in toluene (10 mL) and tetrahydrofuran (2 mL), and the mixture was sufficiently deaerated, and stirred at 120° C. for 18 hr under an argon atmosphere. The reaction mixture was allowed to cool to room temperature, water and ethyl acetate were added, and the mixture was filtered through celite. The organic layer of the filtrate was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=7:1→3:1), and the obtained solid was washed with a mixed solvent of diisopropyl ether and ethyl acetate to give the title compound as a pale-red solid (yield 345 mg, yield 59%).

reactant | Ethyl 5-amino-1-phenyl-1H-pyrazole-3-carboxylate | 443 mg | NC1=CC(=NN1C1=CC=CC=C1)C(=O)OCC | C12H13N3O2
reactant | iodobenzene | 469 mg | IC1=CC=CC=C1 | C6H5I
reactant | cesium carbonate | 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 111 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium | 87 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 1-phenyl-5-(phenylamino)-1H-pyrazole-3-carboxylate | yield 345 mg, yield 59% | C1(=CC=CC=C1)N1N=C(C=C1NC1=CC=CC=C1)C(=O)OCC | C18H17N3O2
